US08912180B2
tert-Butyl (2-{[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]amino}-4-methylphenyl)carbamate (8.5 g) was dissolved in 1,4-dioxane (85 mL), and a 4 M solution (56 mL) of hydrogen chloride in 1,4-dioxane was added thereto, followed by stirring at room temperature for 8 hours. After the completion of the reaction, a saturated aqueous sodium bicarbonate solution and a 4 M aqueous sodium hydroxide solution were added thereto. The mixture was quenched, made free, and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain N2-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine (6 g) as a yellow powder.

reactant | tert-Butyl (2-{[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]amino}-4-methylphenyl)carbamate | 8.5 g | ClC1=CC(=NC(=N1)SC)NC1=C(C=CC(=C1)C)NC(OC(C)(C)C)=O | C17H21ClN4O2S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
solvent | 1,4-dioxane | 85 mL | O1CCOCC1 | C4H8O2
product | N2-[6-chloro-2-(methylsulfanyl)pyrimidin-4-yl]-4-methylbenzene-1,2-diamine | 6 g | ClC1=CC(=NC(=N1)SC)NC=1C(=CC=C(C1)C)N | C12H13ClN4S
